US03931199
A mixture of 10.5 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid and 150 ml of ethanol is allowed to absorb 10 g of hydrogen chloride gas, and then refluxed for 16 hours. The ethanol is distilled off, and water is added to the crystalline residue. The mixture is extracted with chloroform, and the chloroform layer is washed with aqueous potassium carbonate solution and dried. The chloroform is distilled off, and the residue is recrystallized from ethanol to give ethyl 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylate melting at 131°-132°C.

reactant | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid | 10.5 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)O | C13H7NO4
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylate | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)OCC | C15H11NO4
